US06100292
4-Nitrophenylacetic acid (4.5 g, 25 mmol) and then dicyclohexylcarbodiimide (5.4 g, 26 mmol) were added to a 1,2-dichloroethane (160 ml) suspension of 4-hydroxycoumarin (4.00 g, 24.6 mmol) at room temperature, after which 4-dimethylaminopyridine (0.15 g, 1.2 mmol) was added and stirring carried out for 1 hour at 60° C. and then further 4-dimethylaminopyridine (0.30 g, 2.4 mmol) added and stirring carried out for 23 hours at 85° C. The dicyclohexylurea was filtered off while the solution was still warm, then the reaction solution washed with dilute hydrochloric acid (50 ml), after which the aqueous layer was extracted with dichloromethane. After drying with anhydrous sodium sulphate, the solvent was distilled off and separation and purification performed by column chromatography. When recrystallization was performed from ethyl acetate, 4-hydroxy-3-(4-nitrophenylacetyl)-coumarin (1.56 g, 19%) was obtained as yellow crystals. Tetrahydrofuran (50 ml), methanol (18 ml) and concentrated hydrochloric acid (5 ml) were added to the compound (1.00 g, 3.1 mmol) obtained, then Pd-C (5%, containing 100% of water, 150 mg) added and the atmosphere replaced by hydrogen. The raw material was consumed in 4 hours and then the hydrogen replaced by argon.

reactant | 4-Nitrophenylacetic acid | 25 mmol, 4.5 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | dicyclohexylcarbodiimide | 26 mmol, 5.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-hydroxycoumarin | 24.6 mmol, 4.00 g | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
catalyst | 4-dimethylaminopyridine | 1.2 mmol, 0.15 g | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | 4-dimethylaminopyridine | 2.4 mmol, 0.30 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | 1,2-dichloroethane | 160 ml | ClCCCl | C2H4Cl2
product | 4-hydroxy-3-(4-nitrophenylacetyl)-coumarin | 1.56 g, 19% | OC1=C(C(OC2=CC=CC=C12)=O)C(CC1=CC=C(C=C1)[N+](=O)[O-])=O | C17H11NO6
